* Z:\mnt\design.r\spice\examples\1844-SD.asc
R1 N001 0 100K
R2 OUT N001 164K
V1 IN 0 5
I1 OUT 0 {iload} load
XU1 IN 0 IN N001 OUT LTC1844-SD
.dc v1 5 2 10m
.measure DC vdrop WHEN V(out)=3.2
.measure DC dropout param Vdrop-3.2
.step param iload list 1u 10m 25m 50m 75m 100m 125m 150m
.lib LTC1844.lib
.backanno
.end
